US04721791
4-Chloro-3-cyanobenzyl azide
A stirred mixture of 4-chloro-3-cyanobenzyl bromide (3.0 g, 13 mmol) and sodium azide (1.26 g, 19.4 mmol) was refluxed 5 hours in absolute ethanol (30 mL). The mixture was kept 18 hours at ambient temperature, filtered, and the filtrate was evaporated under vacuum. The residue was triturated with diethyl ether, filtered, and evaporated to provide 2.45 g (98%) liquid 4-chloro-3-cyanobenzyl azide; I.R. (neat): 2240, 2100 cm1.

reactant | 4-chloro-3-cyanobenzyl bromide | 13 mmol, 3.0 g | ClC1=C(C=C(CBr)C=C1)C#N | C8H5BrClN
reactant | sodium azide | 19.4 mmol, 1.26 g | [N-]=[N+]=[N-].[Na+]
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 4-Chloro-3-cyanobenzyl azide | 2.45 g, 98% | ClC1=C(C=C(CN=[N+]=[N-])C=C1)C#N | C8H5ClN4
